US08710245B2
(f) Synthesis of 3-methyl-6-(nitromethyl)-5,6-dihydro-4H-cyclopenta[b]thiophene
A solution of 3-methyl-6-(nitromethyl)-5,6-dihydro-4H-cyclopenta[b]thiophen-4-one (9.5 g) in 13H3.THF (400 mL) was stirred at room temperature overnight. TLC analysis indicated the consumption of starting material. The reaction mixture was acidified to pH 2 with 10% HCl and stirred for 2 h. The mixture was extracted with EtOAc (100 mL×3). The combined organic phase was dried with Na2SO4, and concentrated in vacuo. The crude product was purified by flash column chromatography to afford 5 g of title compound (yield: 56.4%).

reactant | 3-methyl-6-(nitromethyl)-5,6-dihydro-4H-cyclopenta[b]thiophen-4-one | 9.5 g | CC=1C2=C(SC1)C(CC2=O)C[N+](=O)[O-] | C9H9NO3S
solvent | THF | 400 mL | C1CCOC1 | C4H8O
product | 3-methyl-6-(nitromethyl)-5,6-dihydro-4H-cyclopenta[b]thiophene | 5 g, yield: 56.4% | CC=1C2=C(SC1)C(CC2)C[N+](=O)[O-] | C9H11NO2S
